US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3,3-DIMETHYLBUTYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (3,3-dimethylbutyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (17% yield). 1H NMR (400 MHz, CDCl3) δ 8.05, 7.83-7.72, 7.64, 7.57, 7.38, 6.98, 4.09-3.66, 3.50-3.45, 3.37-3.34, 1.57-1.52, 0.96. MS (ES+) m/z 464.6 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (3,3-dimethylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)Cl)(C)C | C11H16ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3,3-DIMETHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)(C)C | C23H28F3N5O2
